US09382188B2
step 1) 2-(2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)-4,4-dimethylpentanenitrile
To a solution of 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-3,3-dimethylbutan-1-ol (160 mg) and tris(pentafluorophenyl)borane (20 mg) in acetonitrile (3 mL) was added trimethylsilyl cyanide (81 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate. The diluted solution was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (97 mg) as a colorless oil.

reactant | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-3,3-dimethylbutan-1-ol | 160 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(CC(C)(C)C)O | C27H31FO4
reactant | tris(pentafluorophenyl)borane | 20 mg | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C18BF15
reactant | trimethylsilyl cyanide | 81 μL | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)-4,4-dimethylpentanenitrile | 97 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)C(C#N)CC(C)(C)C | C20H22FNO2
